Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left cranial defect s/p craniectomy
 
Major Surgical or Invasive Procedure:
___:  Left cranioplasty

 
History of Present Illness:
Mr. ___ is an ___ year-old gentleman who underwent a left 
craniectomy on ___ after sustaining a traumatic subdural 
hematoma with midline shift.  The patient now returns for an 
elective cranioplasty.
 
Past Medical History:
Left subdural hematoma s/p craniectomy, ADHD, Closed head injury 
at age ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On discharge:
 
Pertinent Results:
___- CT HEAD-POST OP
IMPRESSION: 
1. Postoperative changes related to patient's left frontal 
cranioplasty. 
2. No acute intracranial hemorrhage or large territorial 
infarct. 
3. Stable nondisplaced right temporal bones squamous portion 
fracture.

___- CT HEAD
IMPRESSION: 
1. Status post left frontal craniotomy without evidence of new 
hemorrhage or mass effect. 
2. Stable linear nondisplaced fracture of the right temporal 
bone. 

___- CT HEAD 
IMPRESSION:  
1. Status post left frontal craniotomy with interval removal of 
JP and 
expanding subgaleal fluid collection, measuring up to 2.5 cm, 
which may 
represent hematoma or CSF leak. 
2. No evidence of new intracranial hemorrhage. 
3. Stable linear nondisplaced fracture of the right temporal 
bone. 

 
Brief Hospital Course:
Mr. ___ was taken to the operative suite on the day of 
admission for his elective left-sided cranioplasty.  He 
tolerated the procedure well and there were no intra-operative 
complications.  The patient was extubated post-procedure and 
transferred to ___ for recovery.  His blood pressure was 
maintained less than 140mm Hg systolic.  A post-operative scan 
was completed and showed expected post operative changes with no 
acute hemorrhage. 
On ___, the patient remained neurologically stable. He was 
hypertensive over night up to 160's systolic, and tachycardia up 
to 110's he was given a dose of labetalol and prn hydralazine 
with good effect. A head CT of the head was obtained and was 
stable. His JP drain was d/c without difficulty. Later in the 
afternoon he became tachycardic and hypertensive again, he was 
given one dose of metoprolol po with good effect. Later in the 
night he required one more dose of metoprolol, his pain was well 
controlled during these episodes. The patient was advised to see 
his pcp for further work up. 
On ___, the patient remained neurologically and hemodynamically 
intact. No father issues with hypertension or tachycardia. There 
was a significant amount of swelling noted around the bone flap, 
a head CT was done which showed a large subgaleal collection 
measuring 2.5 cm. Collection most likely csf vs blood. Will 
continue to monitor the patient. Images reviewed with Dr. 
___. Early evening the swelling continued to 
increase, his head was wrapped with ___ continue to 
monitor. Most likely discharge home tomorrow if stable.
On ___, the patient remained neurologically and hemodynamically 
intact. His head and facial swelling was much improved. He 
expressed readiness to be discharged home. He was discharged 
home in stable conditions. All discharge instructions and follow 
up were given prior to discharge. 
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed more than 4 grams in 24hrs.  
2. Docusate Sodium 100 mg PO BID 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Please do not drive or operate mechanical machinery while taking 
narcotics.  
RX *oxycodone 5 mg ___ tablet(s) by mouth Q 4hrs Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cranial defect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•You underwent surgery to have your skull bone (or an 
artificial bone) placed back on. 
•Please keep your staples along your incision dry until they 
are removed.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You may take leisurely walks and slowly increase your activity 
at your own pace once you are symptom free at rest. ___ try to 
do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•      Please do NOT take any blood thinning medication 
(Aspirin, Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 

•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•Headache or pain along your incision. 
•You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
•You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___